US04219660
Preparation of 3-methyl-4-nitro-2-butene-1-ol-4-nitrobenzoate
To 0.1 Mol of 4-nitro-3-methyl-2-butenol in benzene was added 0.1 Mol of p-Nitrobenzoylchloride and stirred overnight. The benzene was evaporated and the residue was stirred in sat. sodiumbicarbonate solution for 1 hour. The solid was filtered and recrystallized from hexane. An off white crystalline product, mp 63°-66° C., was obtained.

reactant | 4-nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | p-Nitrobenzoylchloride | 0.1 Mol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-nitro-2-butene-1-ol 4-nitrobenzoate | CC(=CCO)C[N+](=O)[O-].[N+](=O)([O-])C1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C7H5NO4.C5H9NO3/c9-7(10)5-1-3-6(4-2-5)8(11)12;1-5(2-3-7)4-6(8)9/h1-4H,(H,9,10);2,7H,3-4H2,1H3/p-1
